US05820849
b) 1-Benzyloxy-5-(benzyloxycarbonyl)-2-chloro-3-oxo-4-azapentane
76 g (326.1 mmol) of 2-chloro-3-(benzyloxy)-propionic acid chloride (produced according to Inorg. Chem. Vol. 31; 2422, 1992) is added in drops to 100 g (296.4 mmol) of glycine benzyl ester-p-toluenesulfonic acid salt and 33.0 g (326.1 mmol) of triethylamine in 400 ml of methylene chloride at 0° C., and it is stirred for 2 hours at this temperature. 500 ml of ice water is added, and the water phase is set at pH 2 with 10% aqueous hydrochloric acid. The organic phase is separated, washed once each with 300 ml of 5% aqueous hydrochloric acid, 300 ml of 5% aqueous soda solution and 400 ml of water. The organic phase is dried on magnesium sulfate and evaporated to dryness in a vacuum. The residue is chromatographed on silica gel (mobile solvent: methylene chloride/hexane/acetone=15/5/1).

reactant | 2-chloro-3-(benzyloxy)-propionic acid chloride | 326.1 mmol, 76 g | ClC(C(=O)Cl)COCC1=CC=CC=C1 | C10H10Cl2O2
reactant | glycine benzyl ester-p-toluenesulfonic acid salt | 296.4 mmol, 100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | triethylamine | 326.1 mmol, 33.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-Benzyloxy-5-(benzyloxycarbonyl)-2-chloro-3-oxo-4-azapentane | C(C1=CC=CC=C1)OCC(C(NCC(=O)OCC1=CC=CC=C1)=O)Cl | C19H20ClNO4
